data/mechanism_extracts/ChinJOC/10.6023_cjoc202004051.json
{"doi": "10.6023_cjoc202004051", "journal": "ChinJOC", "is_review": false, "rxn_class_summary": "Electrochemical selenylation/cyclization of N-allylthioamides with diselenides to form selenyl-substituted 4,5-dihydrothiazoles", "mechanism_family": ["radical_polar_crossover", "paired_electrolysis", "radical_cathodic", "radical_anodic"], "electrochemical_role": "Cathodic reduction of diaryl diselenide cleaves Se-Se bond to give a selenyl radical and a selenide anion; the selenide anion is reoxidized at the anode to a selenyl radical, which adds to the alkene; the resulting C-radical is further oxidized at the anode to a carbocation.", "key_intermediates": [{"name": "PhSe• selenyl radical (A)", "smiles": "[Se]c1ccccc1", "role": "reactive"}, {"name": "PhSe- selenide anion (B)", "smiles": "[Se-]c1ccccc1", "role": "reactive"}, {"name": "Alkyl C-radical from selenyl addition to allyl thioamide (C)", "smiles": null, "role": "transient"}, {"name": "Thioamide-tethered carbocation after anodic oxidation (D)", "smiles": null, "role": "reactive"}, {"name": "2-Aryl-5-((arylselanyl)methyl)-4,5-dihydrothiazole product", "smiles": null, "role": "reactive"}], "electron_flow": "Diselenide is reduced at the cathode to a selenyl radical A and selenide anion B; B is reoxidized at the anode back to A; A adds to the allyl C=C of the thioamide generating a β-selenyl C-radical C, which is anodically oxidized to carbocation D; intramolecular 5-exo-trig attack of the thiocarbonyl S followed by deprotonation furnishes the dihydrothiazole, with cathodic H+ reduction (½ H2) closing the redox balance.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Only trace 3a formed in the presence of 2 equiv TEMPO, supporting a radical pathway"}, {"name": "Cyclopropyl-substituted allyl thioamide (1x, radical clock)", "smiles": null, "purpose": "radical_clock", "observation": "3x obtained in 54% yield with the cyclopropyl group intact, excluding an intramolecular thiyl radical cyclization/selenylation mechanism"}, {"name": "Diphenyl diselenide (cyclic voltammetry)", "smiles": "c1ccc(cc1)[Se][Se]c1ccccc1", "purpose": "redox_probe", "observation": "Reduction peak observed at -0.51 V, indicating facile cathodic reduction of 2a"}], "evidence_types_used": ["intermediate_trap_TEMPO", "radical_clock", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "An alternative pathway involving intramolecular thiyl radical cyclization followed by selenylation was explicitly excluded by the cyclopropyl radical-clock experiment (ring-opening not observed)."}
